US07816397B2
2-[2-(4-Aminophenoxy)ethoxy]phenylpropanoic acid
8.4 g (0.025 M) of 2-[2-(4-nitrophenoxy)ethoxy]phenylpropanoic acid and 0.9 g of wet 10% palladium-on-charcoal are added to 60 ml of tetrahydrofuran in a 500 ml reactor. The reaction medium is then stirred vigorously for 3 hours under ambient pressure of hydrogen: exothermicity is observed and the temperature of the reaction medium rises to 40° C.

reactant | 2-[2-(4-nitrophenoxy)ethoxy]phenylpropanoic acid | 0.025 M, 8.4 g | [N+](=O)([O-])C1=CC=C(OCCOC2=C(C=CC=C2)C(C(=O)O)C)C=C1 | C17H17NO6
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-[2-(4-Aminophenoxy)ethoxy]phenylpropanoic acid | NC1=CC=C(OCCOC2=C(C=CC=C2)C(C(=O)O)C)C=C1 | C17H19NO4
